US03948939
9-Cyclohexanecarbonyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid
To a stirred mixture of 3.88 g. of sodium hydride in 100 ml. of dimethylformamide was added portionwise 20 g. of acetaldehyde phenylhydrazine, stirring was continued for 2 hours, 22 g. of cyclohexanecarbonyl chloride was added dropwise, stirring was continued for three hours and the reaction mixture was then poured into ice water containing acetic acid. The aqueous mixture was extracted with ether and the ether extract was washed with water, dried and evaporated to dryness. The residue was taken up in absolute ethyl alcohol and ether, hydrogen chloride in ethyl alcohol was added, and the solution was allowed to stand 1 hour, chilled, and evaporated to dryness under reduced pressure. The residue was triturated with ethyl acetate and the resulting solid was filtered to yield 9.2 g. of 1-cyclohexanecarbonyl-1-phenylhydrazine hydrochloride; m.p. 170°-172°C. This was combined with 5.5 g. of cyclohexanone-4-carboxylic acid in 100 ml. of glacial acetic acid and the mixture was heated at the boiling point for 1 hour, diluted with 50 ml. of water and chilled. The resulting precipitate was collected by filtration, washed with 75% acetic acid in water and dried to yield 3.9 g. of the title compound; m.p. 157°-159°C.

reactant | sodium hydride | [H-].[Na+]
reactant | acetaldehyde phenylhydrazine | C1(=CC=CC=C1)NN.C(C)=O
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 1-cyclohexanecarbonyl-1-phenylhydrazine hydrochloride | Cl.C1(CCCCC1)C(=O)N(N)C1=CC=CC=C1
reactant | cyclohexanone-4-carboxylic acid | C1CC(=O)CCC1C(=O)O | C7H10O3
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-Cyclohexanecarbonyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C1(CCCCC1)C(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C20H23NO3
